US08207177B2
Step b: ((1S,2S,4R)-2-[tert-butyl(dimethyl)silyl]oxy-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)methanol
7-[(1R,3S,4S)-3-[tert-butyl(dimethyl)silyl]oxy-4-([tert-butyl(dimethyl)silyl]-oxymethyl)cyclopentyl]-N-[(1S)-2,3-dihydro-1H-inden-1-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine (1.66 g, 0.00280 mol) was dissolved in a mixture of tetrahydrofuran (6.6 mL), water (6.6 mL, 0.36 mol), and acetic acid (19 mL, 0.34 mol). The solution was then heated to 40° C. overnight. The mixture was then cooled and evaporated, azeotroped with toluene (2×50 mL) and the residue was purified by silica gel chromatography eluting with 0 to 100% ethyl acetate in dichloromethane to yield the product as a white solid, 1.05 g (74%). LC/MS: Rt=1.68 min, ES+ 479 (AA standard).

reactant | 7-[(1R,3S,4S)-3-[tert-butyl(dimethyl)silyl]oxy-4-([tert-butyl(dimethyl)silyl]-oxymethyl)cyclopentyl]-N-[(1S)-2,3-dihydro-1H-inden-1-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.00280 mol, 1.66 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)N1C=CC2=C1N=CN=C2N[C@H]2CCC1=CC=CC=C21 | C33H52N4O2Si2
reactant | water | 0.36 mol, 6.6 mL | O | H2O
reactant | acetic acid | 0.34 mol, 19 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 6.6 mL | O1CCCC1 | C4H8O
product | ((1S,2S,4R)-2-[tert-butyl(dimethyl)silyl]oxy-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](C[C@H](C1)N1C=CC2=C1N=CN=C2N[C@H]2CCC1=CC=CC=C21)CO | C27H38N4O2Si
